US07049438B2
4-(2-chloro-5-methoxyanilino)-7-[(2R)-2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy]-5-tetrahydropyran-4-yloxyquinazoline
Using an analogous procedure to that described in Example 22, 4-(2-chloro-5-methoxyanilino)-7-[(2R)-2,3-epoxypropoxy]-5-tetrahydropyran-4-yloxyquinazoline (0.07 g) was reacted with 1-methylpiperazine (0.05 ml) to give the title compound (0.04 g); NMR Spectrum: (DMSOd6) 1.8–1.9 (m, 2H), 2.2 (s, 3H), 2.2 (d, 2H), 2.25–2.6 (m, 10H), 3.55 (t, 2H), 3.8 (s, 3H), 3.92 (m, 2H), 4.05 (m, 2H), 4.2 (m, 1H), 4.9 (d, 1H), 5.1 (m, 1H), 6.8 (m, 1H), 6.85 (d, 1H), 6.95 (d, 1H), 7.5 (d, 1H), 8.12 (d, 1H), 8.5 (s, 1H), 9.9 (s, 1H); Mass Spectrum: M+H+ 558 and 560.

reactant | 4-(2-chloro-5-methoxyanilino)-7-[(2R)-2,3-epoxypropoxy]-5-tetrahydropyran-4-yloxyquinazoline | 0.07 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)OC[C@H]2CO2)C=C(C=C1)OC | C23H24ClN3O5
reactant | 1-methylpiperazine | 0.05 ml | CN1CCNCC1 | C5H12N2
product | 4-(2-chloro-5-methoxyanilino)-7-[(2R)-2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy]-5-tetrahydropyran-4-yloxyquinazoline | 0.04 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)OC[C@@H](CN2CCN(CC2)C)O)C=C(C=C1)OC | C28H36ClN5O5
